US08735423B2
Step (i): Preparation of 5-(tert-Butyldiphenylsilanyloxymethyl)pyrrolidin-2-one
To an ice cold solution of 5-Hydroxymethylpyrrolidin-2-one (5 grams, 43.4 mmol) in dichloromethane (174 mL) was added imidazole (6.5 grams, 95.5 mmol), 4-dimethylaminopyridine (530 mg, 4.3 mmol) followed by tert-butyldiphenylsilyl chloride (12.53 grams, 45.57 mmol). The reaction mixture was gradually warmed to room temperature and upon completion of 2 hours, diluted with dichloromethane, washed with water, brine and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure to obtain title compound of 15.37 grams, as gummy liquid, which was taken up for the next reaction without further purification.

reactant | 5-Hydroxymethylpyrrolidin-2-one | 43.4 mmol, 5 grams | OCC1CCC(N1)=O | C5H9NO2
reactant | imidazole | 95.5 mmol, 6.5 grams | N1C=NC=C1 | C3H4N2
reactant | tert-butyldiphenylsilyl chloride | 45.57 mmol, 12.53 grams | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)Cl | C16H19ClSi
solvent | dichloromethane | 174 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 4.3 mmol, 530 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 5-(tert-Butyldiphenylsilanyloxymethyl)pyrrolidin-2-one | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC1CCC(N1)=O | C21H27NO2Si
